US05145601
The same procedure followed for the methylpropyloxynicotinic acid was used employing 1(S)-methylheptanol as the starting alcohol. A quantitative yield of 6-(1(S)methylheptyloxy)nicotinic acid (2, where R2 is 1(S)-methylheptyl was obtained as a brownish solid. The material was used without further purification.

reactant | methylpropyloxynicotinic acid | CC1=NC(=C(C(=O)O)C=C1)OCCC | C10H13NO3
reactant | 1(S)-methylheptanol | C[C@@H](CCCCCC)O | C8H18O
product | 6-(1(S)methylheptyloxy)nicotinic acid | quantitative yield | C[C@@H](CCCCCC)OC1=NC=C(C(=O)O)C=C1 | C14H21NO3
